US08492425B2
To a solution of 3-hydroxy-5-methyl-1-(5-methoxynaphthalen-2-yl)-1H-pyrazol (150 mg, 0.59 mmol) in dimethylformamide (10 ml), 2-chloroethylmorpholine chlorhydrate (136 mg, 0.71 mmol), K2CO3 (245 mg, 1.77 mmol), and NaI (catalytic quantity) were added. The mixture was heated, in an inert nitrogen atmosphere, at 90° C. during 8 hrs. Subsequently it was cooled, filtered, and the filtered product was evaporated to dryness in a rotavapor. The residue was divided between water and ethylic ether. The organic phase was washed with water and afterwards with an aqueous solution of HCl 2N several times. The collection of the acidic aqueous phases were basified with a solution of NaOH 20% and it was extracted with ethyl acetate, which was washed with water, dried over sodium sulfate, filtered, and evaporated to dryness yielding 204 mg (94%) of 4-{2-[1-(5-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine in the form of an oil.

reactant | 3-hydroxy-5-methyl-1-(5-methoxynaphthalen-2-yl)-1H-pyrazol | 0.59 mmol, 150 mg | OC1=NN(C(=C1)C)C1=CC2=CC=CC(=C2C=C1)OC | C15H14N2O2
reactant | K2CO3 | 1.77 mmol, 245 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | [Na+].[I-]
reactant | 2-chloroethylmorpholine | ClCCN1CCOCC1 | C6H12ClNO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-{2-[1-(5-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy]ethyl}morpholine | 204 mg, 94% | COC1=C2C=CC(=CC2=CC=C1)N1N=C(C=C1C)OCCN1CCOCC1 | C21H25N3O3
